US04085116
A solution of 0.300 part of 6-(1-acetoxyethyl)-3-(1H-tetrazol-5-yl)chromone in 4 parts by volume of 1N-NaOH is stirred at room temperature for 1 hour and then acidified with 1N-hydrochloric acid. The resulting precipitates are recovered by filtration and recrystallized from ethanol to obtain 0.100 of 6-(1-hydroxyethyl)-3-(1H-tetrazol-5-yl)chromone as colorless crystals melting at 234°-236° C (decomposition with foaming).

reactant | 6-(1-acetoxyethyl)-3-(1H-tetrazol-5-yl)chromone | C(C)(=O)OC(C)C=1C=C2C(C(=COC2=CC1)C1=NN=NN1)=O | C14H12N4O4
reactant | NaOH | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 6-(1-hydroxyethyl)-3-(1H-tetrazol-5-yl)chromone | OC(C)C=1C=C2C(C(=COC2=CC1)C1=NN=NN1)=O | C12H10N4O3
